US04929273
To 1.2 g (4.5 mmole) of (-)-2-(4-fluoro-3-trifluoromethylphenoxy)butanoic acid dissolved in 15 ml methylene chloride was added one drop of pyridine and further added dropwise 0.6 g of thionyl chloride. The reaction mixture was further stirred at room temperature for 4 hours and then thionyl chloride and methylene chloride were removed under reduced pressure to obtain 1.2 g of (-)-2-(4-fluoro3-trifluoromethylphenoxy)butanoic acid chloride. The resulting mixture was applied for the next reaction without purification.

reactant | (-)-2-(4-fluoro-3-trifluoromethylphenoxy)butanoic acid | 4.5 mmole, 1.2 g | FC1=C(C=C(OC(C(=O)O)CC)C=C1)C(F)(F)F | C11H10F4O3
reactant | thionyl chloride | 0.6 g | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
catalyst | pyridine | one drop | N1=CC=CC=C1 | C5H5N
product | (-)-2-(4-fluoro3-trifluoromethylphenoxy)butanoic acid chloride | 1.2 g | FC1=C(C=C(OC(C(=O)Cl)CC)C=C1)C(F)(F)F | C11H9ClF4O2
